US07223833B1
1. 5-Amino-1,10-phenanthroline-glutarimide
5-Amino-1,10-phenanthroline (350 mg, 1.8 mmol) was refluxed with glutaric anhydride (2.0g, 17.5 mmol) in pyridine (3 mL) and triethylamine (3 mL) for 2 hours. The reaction mixture was reduced to a viscous oil by rotary evaporation. Column purification on silica with 10% methanol in methylene chloride (product produced bright red spots with Fe(II) on TLC) gave the crude product (320 mg 1.1 mmol). Further purification of the crude product was by recrystallization once from 30 mL boiling water to give the title compound (250 mg, 0.85 mmol) as centimeter long transparent needles.

reactant | 5-Amino-1,10-phenanthroline | 1.8 mmol, 350 mg | NC1=C2C=CC=NC2=C2N=CC=CC2=C1 | C12H9N3
reactant | glutaric anhydride | 17.5 mmol, 2.0g | C1(CCCC(=O)O1)=O | C5H6O3
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
product | 5-Amino-1,10-phenanthroline glutarimide | 0.85 mmol, 250 mg | NC1=C2C=CC=NC2=C2N=CC=CC2=C1.C1(CCCC(N1)=O)=O | InChI=1S/C12H9N3.C5H7NO2/c13-10-7-8-3-1-5-14-11(8)12-9(10)4-2-6-15-12;7-4-2-1-3-5(8)6-4/h1-7H,13H2;1-3H2,(H,6,7,8)
